US09108977B2
To a solution of 860 mg of t-butyl 4-ethyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 25 ml of dichloroethane was added 1.1 g of sodium hydrogen carbonate, and further, a solution of 200 μl of bromine in 5 ml of dichloroethane was added dropwise thereto over about 30 minutes, followed by stirring at room temperature. To the reaction mixture was slowly added a 3% aqueous sodium thiosulfate solution, followed by stirring vigorously and extracting with chloroform twice. The combined organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 490 mg of t-butyl 5-bromo-4-ethyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate.

reactant | t-butyl 4-ethyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 860 mg | C(C)N1CCOC=2C1=CC1=C(CCN(CC1)C(=O)OC(C)(C)C)C2 | C19H28N2O3
reactant | sodium hydrogen carbonate | 1.1 g | C(O)([O-])=O.[Na+]
reactant | bromine | 200 μl | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | t-butyl 5-bromo-4-ethyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 490 mg | BrC1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CC | C19H27BrN2O3
